US05556861
8-(3-Amino-1-azetidinyl)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine was prepared under the conditions of Example 2, but starting with 1.3 g of 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine and 1.32 g of 3-aminoazetidine dimethanesulphonate. After recrystallization in 50 cm3 of ethanol, 0.8 g of 8-(3-amino-1-azetidinyl)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine is obtained in the form of a yellow solid, melting point 236°-238° C.

reactant | 1-cyclopropyl-3-ethoxycarbonyl-7,8,9-trifluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 1.3 g | C1(CC1)N1C=C(C(C=2C=C3C(=NC12)C(=C(C(=C3)F)F)F)=O)C(=O)OCC | C18H13F3N2O3
reactant | 3-aminoazetidine dimethanesulphonate | 1.32 g | CS(=O)(=O)O.CS(=O)(=O)O.NC1CNC1
product | 8-(3-amino-1-azetidinyl)-1-cyclopropyl-3-ethoxycarbonyl-7,9-difluoro-4-oxo-1,4-dihydrobenzo[b][1,8]naphthyridine | 0.8 g | NC1CN(C1)C=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)C2CC2)C1F)F | C21H20F2N4O3
